US07420066B2
Step 1: Preparation of (2,4-dichlorophenyl)-[3-methyl-6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-benzofuran-2-yl]-methanone
To a solution of (6-bromo-3-methyl-benzofuran-2-yl)-(2,4-dichlorophenyl)-methanone (5.00 g, 13.0 mmol) in dimethylformamide (50 mL) was added bis(pinacolato)diboron (3.94 g, 15.5 mmol), potassium acetate (3.83 g, 39.1 mmol) and [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (35 mg, 0.5 mmol). The mixture was degassed under vacuum for 15 min, then heated to 85 C for 4 h. The reaction was diluted with ethyl acetate, washed with water, and concentrated in vacuo. The residue was purified by silica gel chromatography, eluting with 0-15% ethyl acetate in hexanes, to afford the desired product as a white solid (4.07 g, 73%). 1H-NMR (CDCl3) δ 7.92 (s, 1H), 7.70 (q, J=21.3, 7.9 Hz, 2H), 7.49 (d, J=2.0 Hz, 1H), 7.46-7.44 (m, 1H), 7.36 (ddd, J=8.2, 1.9, 0.6 Hz, 1H), 2.61 (s, 3H), 1.36 (s, 12H).

reactant | (6-bromo-3-methyl-benzofuran-2-yl)-(2,4-dichlorophenyl)-methanone | 13.0 mmol, 5.00 g | BrC1=CC2=C(C(=C(O2)C(=O)C2=C(C=C(C=C2)Cl)Cl)C)C=C1 | C16H9BrCl2O2
reactant | bis(pinacolato)diboron | 15.5 mmol, 3.94 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 39.1 mmol, 3.83 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dichloromethane | 0.5 mmol, 35 mg | ClCCl | CH2Cl2
product | (2,4-dichlorophenyl)-[3-methyl-6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-benzofuran-2-yl]-methanone | 4.07 g, 73% | ClC1=C(C=CC(=C1)Cl)C(=O)C=1OC2=C(C1C)C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C22H21BCl2O4
